US04560683
(e) 1-Acetoxy-1-ethyl (6R,7 R)-7-[(Z)-2-(2-Aminothiazol-4-yl)-2-cyclopropylmethoxyiminoacetamido]-3-carbamoyloxymethylceph-3-em-4-carboxylate
1-Acetoxy-1-ethyl (6R,7R)-3-carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate (1.5 g) was dissolved in formic acid (15 ml) and water (7.5 ml) was added. After 1.5 hour at 21°, the mixture was filtered and the filter-cake was leached with formic acid-water (2:1). The combined filtrates were concentrated and the residue was mixed with isopropanol when a solution formed. This was evaporated to dryness and the residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The aqueous layer was extracted with more ethyl acetate and the combined organic layers were washed with brine and dried with magnesium sulphate. After evaporation, the residue was triturated with isopropanol (5 ml) to give the title compound (540 mg); [α]D21 +17.9° (c 1.2, CHCl3); λmax (ethanol) 238.5 nm (E1 cm1% 287), λinfl 256 nm (E1 cm1% 249) and λinfl 280 nm (E1 cm1% 179).

reactant | 1-Acetoxy-1-ethyl (6R,7R)-3-carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate | 1.5 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)OC(C)=O)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C41H40N6O9S2
reactant | water | 7.5 ml | O | H2O
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 1-Acetoxy-1-ethyl (6R,7 R)-7-[(Z)-2-(2-Aminothiazol-4-yl)-2-cyclopropylmethoxyiminoacetamido]-3-carbamoyloxymethylceph-3-em-4-carboxylate | 540 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC(C)OC(C)=O)C1=O)=N/OCC1CC1 | C22H26N6O9S2
